US04806685
Preparation of 1-phenyl-3,3,3-trifluoro-2-(4-fluorophenyl)-1-[4-(2-morpholinoethoxy)-phenyl]-propene
3.25 g (7 mmoles) of 1-[4-(2-bromoethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-fluorophenyl)-propene, prepared as described in Example 15, are reacted with morpholine as described in Example 1. The product is crystallized from hexane. 2.5 g (75.7%) of the aimed compound are obtained; m.p.: 67°-69° C.

reactant | 1-[4-(2-bromoethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-fluorophenyl)-propene | 7 mmoles, 3.25 g | BrCCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C23H17BrF4O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-phenyl-3,3,3-trifluoro-2-(4-fluorophenyl)-1-[4-(2-morpholinoethoxy)-phenyl]-propene | 2.5 g, 75.7% | C1(=CC=CC=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OCCN1CCOCC1 | C27H25F4NO2
